US06528525B1
2-(3-phenylpropyl)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 9-35 compound)
In a similar manner to that described in Example 2, ethyl 2-(3-phenylpropyl)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (767 mg), which is the product of Example 3, was reacted with an aqueous sodium hydroxide solution (1N, 2.86 ml) and the reaction mixture was treated. The residue was crystallized from a mixture of diisopropyl ether and ethyl acetate to give the title compound (361 mg) as colorless crystals.

reactant | ethyl 2-(3-phenylpropyl)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 767 mg | C1(=CC=CC=C1)CCCC(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C34H36N2O4
reactant | sodium hydroxide | 1N, 2.86 ml | [OH-].[Na+]
product | 2-(3-phenylpropyl)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 361 mg | C1(=CC=CC=C1)CCCC(C(=O)O)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C32H32N2O4
